US07566735B2
N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)propanamide
The title compound was prepared from 1-[4-(chloromethyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole and N-methylpropanamide using a similar procedure to that described for Description 15.

reactant | 1-[4-(chloromethyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | ClCC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C15H14ClF3N2
reactant | N-methylpropanamide | CNC(CC)=O | C4H9NO
product | N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)propanamide | CN(C(CC)=O)CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C19H22F3N3O
